* C:\Users\phild\Documents\Uni\S4\APP4\S4_APP4\S4iAPP4_prob\xor_test.asc
V1 vdd 0 {vv}
V2 b 0 PULSE(0 {vv} 1000p 1p 1p 2000p 4000p 5)
XX2 a out vdd 0 b xor params: XOR ll=180n wn={3.1*nnw} wp={3.1*nnw*mp}
V3 a 0 PULSE(0 {vv} 2000p 1p 1p 2000p 4000p 5)
C1 out 0 1f

* block symbol definitions
.subckt xor in1 Q vdd vss in2
XX1 in1 N001 vdd vss inv params: ll=180n wn={nnw} wp={nnw*mp}
XX2 in2 N004 vdd vss inv params: ll=180n wn={nnw} wp={nnw*mp}
M1 vdd in1 N002 vdd PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M2 N002 N004 Q N002 PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M3 vdd N001 N003 vdd PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M4 N003 in2 Q N003 PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M5 Q in1 N005 N005 NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M6 N005 in2 vss vss NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M7 Q N001 N006 N006 NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M8 N006 N004 vss vss NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
.lib BU_180nm.lib
.ends xor

.subckt inv In _Q vdd vss
M1 _Q In vss vss NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M2 vdd In _Q vdd PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
.lib BU_180nm.lib
.ends inv

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\phild\Documents\LTspiceXVII\lib\cmp\standard.mos
.param vv=1.8 nnw=180n mp=2.21
.tran 0 10000p 0 10p
.lib BU_180nm.lib
.meas tran t1 find time when v(out)=vv*0.1 rise 2
.meas tran t2 find time when v(out)=vv*0.9 rise 1
.meas tran t3 find time when v(out)=vv*0.1 fall 2
.meas tran t4 find time when v(out)=vv*0.9 fall 1
.meas tran transition_up param abs(t2-t1)
.meas tran transition_down param abs(t4-t3)
.meas tran ratio param upslope/downslope
.backanno
.end
